US05977105
(±)-1-(4-Benzoylphenoxy)-4-(3-pyridyl)-2-butanol
Prepared according to the method described in Example 24b) from (±)-α-(chloromethyl)-3-pyridinepropanol (1.05 g), 4-hydroxybenzophenone (1.35 g), ethanol (30 ml) and aqueous sodium hydroxide (1.4 M, 5 ml). After work up the residue was purified by column chromatography over silica with ether then ethyl acetate to give the title compound as an oil (0.42 g).

reactant | (±)-α-(chloromethyl)-3-pyridinepropanol | 1.05 g | ClCC(CCC=1C=NC=CC1)O | C9H12ClNO
reactant | 4-hydroxybenzophenone | 1.35 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | sodium hydroxide | 1.4 M, 5 ml | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (±)-1-(4-Benzoylphenoxy)-4-(3-pyridyl)-2-butanol | 0.42 g | C(C1=CC=CC=C1)(=O)C1=CC=C(OCC(CCC=2C=NC=CC2)O)C=C1 | C22H21NO3
